US08420865B2
Synthesis of 4-methoxyphenylphenylperylenylphosphine oxide (3)
A solution containing 1.2 g (9.4 mmol, 4 eq) of diisopropylethylamine in 17 mL of DMSO was added dropwise to the mixture of 780 mg (2.35 mmol) of perylene bromide, 1.1 g (4.7 mmol, 2 eq) of anisylyphenylphosphine oxide, 53 mg (0.24 mmol, 0.05 eq) of palladium acetate and 99 mg (0.24 mmol, 0.05 eq) of 1,3-bis(diphenylphosphino)propane. The reaction temperature was elevated to 150° C., and the mixture was stirred overnight. The reaction was confirmed by TLC, and then 50 mL of ethyl acetate was added to dilute the mixture, followed by washing with H2O and saturated NaCl aqueous solution (30 ml×3) for three times. The organic layer was dried over sodium sulfate and the solvent was removed to give pale yellow crystals. Purification was performed by silica gel column chromatography (dichloromethane:ethyl acetate=1:1) (yield 70%). The compound was identified by 1H-NMR, 31P-NMR, 13C-NMR, IR, ESI-MS and UV.

reactant | diisopropylethylamine | 9.4 mmol, 1.2 g, 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | perylene bromide | 2.35 mmol, 780 mg | [Br-].C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45
reactant | 1,3-bis(diphenylphosphino)propane | 0.24 mmol, 99 mg, 0.05 eq | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | DMSO | 17 mL | CS(=O)C | C2H6OS
catalyst | palladium acetate | 0.24 mmol, 53 mg, 0.05 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-methoxyphenylphenylperylenylphosphine oxide | yield 70% | COC1=CC=C(C=C1)P(C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)(C4=CC=CC=C4)=O | C33H23O2P
